* original rc connectivity check
.OPTION POST=2 PROBE INGOLD=2 MEASDGT=6 METHOD=GEAR GSHUNT=1e-12
.TEMP 25
.INCLUDE "sram6t_rc.inc"
.PARAM VDD=0.7
VDD_SRC vdd 0 DC 'VDD'
VSS_SRC vss 0 DC 0

VBL bl 0 DC 'VDD'
VBLB blb 0 DC 'VDD'
VWL wl 0 DC 0
CQ q 0 1f
CQB qb 0 1f
CBL bl 0 10f
CBLB blb 0 10f
XSRAM bl blb wl q qb vdd vss SRAM6T_RC
.IC V(q)='VDD' V(qb)=0 V(bl)='VDD' V(blb)='VDD'
.TRAN 0.2p 0.5n
.PRINT TRAN V(q) V(qb)
.END
